Data/regression/wb97xd3/fold_0/aam_pretrain_train.csv
AAM,ea
[C:1]([C:2](=[C:3]=[C:4]([H:11])[H:12])[C:5](=[O:6])[C:7]([H:13])([H:14])[H:15])([H:8])([H:9])[H:10]>>[C:1]([C:2]#[C:3][C:4]([C:5](=[O:6])[C:7]([H:13])([H:14])[H:15])([H:11])[H:12])([H:8])([H:9])[H:10],57.321283689314484
[C:1]([C:2]#[C:3][C@@:4]([C:5]([H:11])([H:12])[H:13])([O:6][H:14])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C:2]1=[C:3]([O:6][H:14])[C@@:4]1([C:5]([H:11])([H:12])[H:13])[H:10])([H:7])([H:8])[H:9],69.1662888129148
[C:1]([C@@:2]1([H:10])[C:3]([H:11])([H:12])[C@:4]1([C:5]([H:13])([H:14])[H:15])[O:6][H:16])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[C:3]([H:11])[H:12])[C:4](=[C:5]([H:13])[H:14])[O:6][H:16])([H:7])([H:8])[H:9].[H:10][H:15],108.71475964938699
[N:1](=[C:2]1\[O:3][C:4]([H:9])([H:10])[C@@:5]12[C:6]([H:11])([H:12])[N:7]2[H:13])\[H:8]>>[N:1]1([H:8])[C:2](=[O:3])[C:5](=[C:4]([H:9])[H:10])[N:7]([H:13])[C:6]1([H:11])[H:12],38.6411790381611
[O+:1]#[C:2][C:3]([C:4](=[C-:5][H:10])[C:6]#[N:7])([H:8])[H:9]>>[O:1]=[C:2]([C:3]([C:4]#[C:5][H:10])([H:8])[H:9])[C:6]#[N:7],11.754027557326005
[C:1]1([H:7])=[C:6]([H:14])[C:2]1([C:3]([O:4][C:5]([H:8])([H:12])[H:13])([H:10])[H:11])[H:9]>>[C:1]1([H:7])([H:8])[C@@:2]2([H:9])[C:3]([H:10])([H:11])[O:4][C:5]([H:12])([H:13])[C@@:6]12[H:14],50.91893187579152
[C:1](/[C:2](=[N:3]\[H:11])[O:4]/[C:5](=[C:6](/[O:7][H:13])[H:14])[H:12])([H:8])([H:9])[H:10]>>[C:1](/[C:2](=[N:3]\[H:11])[O:4][C:5]([C:6](=[O:7])[H:14])([H:12])[H:13])([H:8])([H:9])[H:10],48.48164793174131
[C:1](=[C:2](/[N:3]=[C:4](\[O:5][H:11])[C:6]([H:13])([H:14])[H:15])[H:10])([H:7])[H:8].[H:9][H:12]>>[C:1]([C:2]([N:3]([C:4](=[O:5])[C:6]([H:13])([H:14])[H:15])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],55.278643998828514
[N:1]([C:2](=[O:3])[N:4](/[C:5](=[N:6]/[H:11])[H:10])[H:9])([H:7])[H:8]>>[C:2](=[O:3])=[N:4][C:5](=[N:6][H:11])[H:10].[N:1]([H:7])([H:8])[H:9],42.789802703894
[C:1]([N:2](/[C:3](=[N:4]/[H:11])[C:5]#[N:6])[H:10])([H:7])([H:8])[H:9]>>[C:1]([N:2]=[C:3]=[N:4][H:11])([H:7])([H:8])[H:9].[C:5]=[N:6][H:10],57.80742543173
[C:1]([C@@:2]([O:3][H:12])([C:4]([C:5]([C:6](=[O:7])[H:17])([H:15])[H:16])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10]>>[C-:6]#[O+:7].[C:1]([C:2]([O:3][H:12])([H:11])[H:17])([H:8])([H:9])[H:10].[C:4](=[C:5]([H:15])[H:16])([H:13])[H:14],77.400474396601
[C:1]1([H:8])=[C:2]([H:9])[C:3]([H:10])([H:11])[C:4]([H:12])([H:13])[C:5]([H:15])=[C:6]1[H:16].[H:7][H:14]>>[C:1]1([H:7])([H:8])[C@:2]2([H:9])[C:3]([H:10])([H:11])[C:4]([H:12])([H:13])[C:5]([H:14])([H:15])[C@:6]12[H:16],79.493676155847
[N:1]([C:2](=[O:3])[H:8])([C:5]1=[C:6]([H:11])[C:4]1([H:9])[H:10])[H:7]>>[N:1](=[C:2](/[O:3][C:4]([C:5]#[C:6][H:11])([H:9])[H:10])[H:8])\[H:7],44.64520120827551
[N:1]#[C:2][C:3]([O:4][C:5]([C:6]#[N:7])([H:10])[H:11])([H:8])[H:9]>>[N:1]#[C:2][C:3]([O:4][C:6]1=[N:7][C:5]1([H:10])[H:11])([H:8])[H:9],74.0033932493821
[O:1]1/[C:2](=[N:3]\[H:8])[C@:7]1([O:6][C:5](=[C:4]([H:9])[H:10])[H:11])[H:12]>>[O:1]=[C:2]1[N:3]([H:8])[C:4]([H:9])([H:10])[C@@:5]2([H:11])[O:6][C@@:7]12[H:12],33.6070300808839
[N:1]([C:2](=[O:3])[C:4]([O:5][C:6](=[O:7])[H:12])([H:10])[H:11])([H:8])[H:9]>>[H:8][H:11].[N:1](=[C:2]1\[O:3][C@@:4]1([O:5][C:6](=[O:7])[H:12])[H:10])\[H:9],86.6537516681044
[C:1]([C:2]#[C:3][C:4]([C:5]([H:11])([H:12])[H:13])([C:6]([H:14])([H:15])[H:16])[O:7][H:17])([H:8])([H:9])[H:10]>>[C:1]([C:2]#[C:3][H:16])([H:8])([H:9])[H:10].[C:4]([C:5]([H:11])([H:12])[H:13])(=[C:6]([H:14])[H:15])[O:7][H:17],74.6847947371234
[C:1]([C:2]1([O:3][H:11])[C:4]([H:12])([H:13])[C:5]([H:14])=[C:6]([H:15])[C:7]1([H:16])[H:17])([H:8])([H:9])[H:10]>>[C:1]([C:2]1=[C:7]([H:17])[C:6]([H:15])=[C:5]([H:14])[C:4]1([H:12])[H:13])([H:8])([H:9])[H:10].[O:3]([H:11])[H:16],54.324856444269706
[C:1]([O:2][C:3](=[O:4])[C:5]#[C:6][H:10])([H:7])([H:8])[H:9]>>[C:1]([O:2][C:3](=[O:4])[C:5](=[C:6])[H:10])([H:7])([H:8])[H:9],42.9956605212957
[C:1]([C:2]([C:3]([C:4](=[O:5])[H:8])([H:13])[H:14])([H:11])[H:12])([C:6](=[O:7])[H:15])([H:9])[H:10]>>[C:1]([C:2]([C:3]([C:4](=[O:5])[C:6](=[O:7])[H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10],86.07082265575319
[C:1]([C:2]([C@@:3]([O:4][H:14])([C@@:5]([C:6]([H:16])([H:17])[H:18])([O:7][H:19])[H:15])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C@@:3]([O:4][H:17])([C:5](=[C:6]([H:16])[H:18])[H:15])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10].[O:7]([H:14])[H:19],68.38463139386751
[N:1](=[C:2]1\[O:3][C:4]([H:9])([H:10])[C@@:5]12[C:6]([H:11])([H:12])[N:7]2[H:13])\[H:8]>>[N:1](=[C:2]1\[C@@:5]2([O:3][C:4]2([H:9])[H:10])[C:6]([H:11])([H:12])[N:7]1[H:13])\[H:8],68.3860643625748
[C:1]([C@@:2]([O:3][H:12])([C@@:4]([O:5][H:14])([C:6](=[O:7])[H:15])[H:13])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C@:2]1([H:11])[C@:4]([O:5][H:14])([H:13])[C@:6]1([O:7][O:3][H:12])[H:15])([H:8])([H:9])[H:10],94.1089863548603
[C:1]([C:2]([C:3]([C:4]([C:5]([O:6][C:7]([H:19])([H:20])[H:21])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([C:4]([C:5]([H:17])([H:18])[H:21])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10].[O:6]=[C:7]([H:19])[H:20],76.6069099131374
